US07157465B2
2-Butoxy-9-(6-methoxy-3-pyridylmethyl)adenine
Sodium (415 mg, 18.0 mmol) was added and completely dissolved in methanol (18 ml). Thereafter, 2-butoxy-9-(6-chloro-3-pyridylmethyl)adenine (300 mg, 0.90 mmol) was added thereto, and the resultant was heated under reflux for 24 hours. The reaction solution was concentrated under reduced pressure, water (30 ml) was added to the residue, and the resultant was neutralized with concentrated hydrochloric acid under ice cooling. The precipitated solid was collected by filtration, and crude crystal was purified by silica gel column chromatography (methylene chloride:methanol=50:1) to obtain 148 mg of the title compound (yield: 50%).

reactant | Sodium | 18.0 mmol, 415 mg | [Na] | Na
reactant | 2-butoxy-9-(6-chloro-3-pyridylmethyl)adenine | 0.90 mmol, 300 mg | C(CCC)OC1=NC(=C2N=CN(C2=N1)CC=1C=NC(=CC1)Cl)N | C15H17ClN6O
reactant | methanol | 18 ml | CO | CH4O
product | 2-Butoxy-9-(6-methoxy-3-pyridylmethyl)adenine | 148 mg, yield: 50% | C(CCC)OC1=NC(=C2N=CN(C2=N1)CC=1C=NC(=CC1)OC)N | C16H20N6O2
